US05356752
2nd stage: Preparation of 3-tert.-butoxycarbonyloxy-benzaldehyde bis-(2-phenylethyl)-acetal
One g (3.73 mmol) of 3-tert.-butoxycarbonyloxy-benzaldehyde dimethylacetal was dissolved in 40 ml of dried toluene. After addition of 0.91 g (7.46 mmol) of 2-phenylethanol and 18 mg of potassium hydrogen sulfate, the resulting mixture was stirred for 2 hours under reflux. The methanol formed was then distilled off slowly, while more toluene was added to the mixture. After complete removal of the methanol, the mixture was cooled down and the potassium hydrogen sulfate was filtered off. The filtrate was concentrated in a rotary evaporator. This gave a yellowish, viscous oil, which was dried in an oil pump vacuum.

reactant | 3-tert.-butoxycarbonyloxy-benzaldehyde dimethylacetal | 3.73 mmol | COC(C1=CC(=CC=C1)OC(=O)OC(C)(C)C)OC | C14H20O5
reactant | 2-phenylethanol | 7.46 mmol, 0.91 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | potassium hydrogen sulfate | 18 mg | S(=O)(=O)(O)[O-].[K+]
reactant | methanol | CO | CH4O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3-tert.-butoxycarbonyloxy-benzaldehyde bis-(2-phenylethyl)-acetal | C1(=CC=CC=C1)CCOC(C1=CC(=CC=C1)OC(=O)OC(C)(C)C)OCCC1=CC=CC=C1 | C28H32O5
